US05191057
Bis(4-hydroxybutyl)sebacate was prepared by the procedure of Example 1 except that 115.2 g (0.50 moles) of dimethyl sebacate and 108.1 g (1.20 moles) of 1,4-butanediol were used instead of dimethyl adipate and ethylene glycol, respectively.

reactant | dimethyl sebacate | 0.50 moles, 115.2 g | C(CCCCCCCCC(=O)OC)(=O)OC | C12H22O4
reactant | 1,4-butanediol | 1.20 moles, 108.1 g | C(CCCO)O | C4H10O2
reactant | dimethyl adipate | C(CCCCC(=O)OC)(=O)OC | C8H14O4
solvent | ethylene glycol | C(CO)O | C2H6O2
product | Bis(4-hydroxybutyl)sebacate | OCCCCOC(CCCCCCCCC(=O)OCCCCO)=O | C18H34O6
